Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
oxycodone
 
Attending: ___
 
Chief Complaint:
Code Stroke for dysarthria and aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
NIHSS Total: 8

1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 2
6b. Motor leg, right: 2
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 2
10. Dysarthria: 2
11. Extinction and Neglect: 0

REASON FOR CONSULTATION: code stroke

HPI: 
Mrs. ___ is a ___ lady with previous history of 
chronic
atrial fibrillation (not on anticoagulation because of previous
falls, now wheelchair bound), chronic right leg weakness
suspected to be secondary to spinal stenosis, hypertension, no
known diabetes, who was last known well witnessed at 5PM and 
then
shortly after found to have "garbled speech". She lives in a
nursing home at baseline. In the ER at OSH (___) 
patient
having trouble speaking and following commands, without obvious
new weakness. At baseline she needs help with standing, going to
the bathroom. At baseline she is normally oriented and speaks
normally, reads the paper regularly.

On exam she was found to have very mild facial asymmetry which
appears to be in right lower face, and daugther agrees. She is
dysarthric and does appear to be aphasic. She was seemingly able
to name thumb and followed some very simple commands if they 
were
said very loudly (close your eyes, open eyes, squeeze, let go,
also lifting up limbs antigravity). She also seemed to have a
left gaze preference. ___ performed no acute findings. tPA
given at OSH at recommendation of tele-stroke, after discussion
of risks/benefits and she was transferred here for further care.

 
Past Medical History:
HTN
spinal stenosis
afib not on AC ___ falls
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
==============
ADMISSION EXAM
==============

Vitals: 
T98.0 HR85 BP144/75 RR20 Spo2 96% RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, tells me it is may. Follows simple
commands if they are given very loudly "thumbs up." SPontaneous
speech mostly consists of her saying I'm hungry, I'm thirsty. 
She
does eventually tell me a full sentence stating that she had 
been
up since noon and she was tired and wanted to eat. She is
dysarthric, difficult to understand for the most part. Able to
read, repeat. She names all the items on the stroke card except
hammock. No clear neglect

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: very hard of hearing, must yell very loudly for her to
understand me
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

moves both arms briskly antigravity . No drift.
Legs able to briefly bring antigravity on both sides.
Unable to test confrontationally

-Sensory: No deficits to light touch, pinprick. unable to test
for DSS.

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 

Plantar response was extensor bilaterally. 

-Coordination: No evident dysmetria

-Gait: patient in wheelchair at baseline

==============
DISCHARGE EXAM
==============
Vitals: BP: 140/67, HR 75 (a fib), RR 23
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, states name and that it is ___, says 
it
is the first of the month. when told it is ___ she says "no way
it is ___ Able to identify common objects such as thumb,
glasses, fist. Follows simple commands midline and appendicular
commands. Unable to repeat "no ifs and or buts" able to repeat
small words. She is dysarthric.  No clear apraxia or neglect.
perseverates on wanting to go home. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Visual fields intact
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: very hard of hearing, must yell very loudly for her to
understand me

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
RUE: spontaneous antigravity, slowing of left finger taps
RLE: spontaneous antigravity
LUE: spontaneous antigravity, does not hold up for 5 seconds but
lets drift slowly
LLE: lifts briefly off bed. reports significant pain with
movement. Past history of breaking ankle

-Sensory: No deficits to light touch, pinprick. unable to test
for DSS.

-Reflexes:  deferred

-Coordination: No evident dysmetria

-Gait: patient in wheelchair at baseline
 
Pertinent Results:
====
LABS
====

___ 08:20PM BLOOD WBC-11.8* RBC-4.62 Hgb-13.9 Hct-43.6 
MCV-94 MCH-30.1 MCHC-31.9* RDW-12.8 RDWSD-44.1 Plt ___
___ 05:50AM BLOOD WBC-7.7 RBC-4.00 Hgb-11.9 Hct-37.2 MCV-93 
MCH-29.8 MCHC-32.0 RDW-12.8 RDWSD-43.8 Plt ___
___ 08:20PM BLOOD ___ PTT-25.6 ___
___ 05:50AM BLOOD Glucose-81 UreaN-16 Creat-0.8 Na-142 
K-4.4 Cl-103 HCO3-28 AnGap-11
___ 08:20PM BLOOD ALT-5 AST-13 AlkPhos-92 TotBili-0.4
___ 05:50AM BLOOD Albumin-3.0* Calcium-8.6 Phos-3.3 Mg-1.8 
Cholest-135
___ 05:50AM BLOOD %HbA1c-5.4 eAG-108
___ 05:50AM BLOOD Triglyc-58 HDL-41 CHOL/HD-3.3 LDLcalc-82
___ 08:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:34PM BLOOD Glucose-114* Creat-0.8 Na-139 K-4.6 
Cl-101 calHCO3-28

=======
IMAGING
=======
- ___ CTA Head & Neck
1. No evidence of acute infarction, hemorrhage or intracranial 
mass. 
2. No perfusion abnormality. 
3. Less than 50% stenosis at the proximal left internal carotid 
artery and 
mild stenosis at the origin of the aberrant right subclavian 
artery. 
4. Otherwise patent intracranial and cervical vasculature 
without evidence of high-grade stenosis, vessel occlusion, 
dissection or aneurysm formation 
greater than 3 mm. 
5. Large heterogeneous thyroid gland with large left thyroid 
lobe nodule for which a nonemergent follow-up evaluation with a 
dedicated thyroid ultrasound is recommended. 

- ___ MRI Head W/O Contrast
1. Acute to subacute punctate infarction in the left frontal 
lobe. 
2. Confluent patchy white matter changes in the cerebral 
hemispheres 
bilaterally, the pons and cerebellum, likely sequela of severe 
chronic 
microangiopathy.  Old small infarct in the left cerebellar 
hemisphere. 
3. Medial temporal atrophy with severe dilatation of temporal 
horn. 

- ___ Transthoracic Echocardiogram
Normal left ventricular wall thickness and biventricular cavity 
sizes and regional/global systolic function. Mild mitral 
regurgitation. Mild pulmonary artery systolic hypertension. Mild 
aortic regurgitation with mildly thickened leaflets. Biatrial 
dilation.

 
Brief Hospital Course:
___ is a ___ year-old woman with a history of a-fib (not 
on anticoagulation because of previous falls, though now 
wheelchair bound), chronic right leg weakness suspected to be 
secondary to spinal stenosis, and hypertension who presented to 
OSH on ___ with "garbled speech" and difficulty following 
commands. She was last known well at 5pm, and received tPA at 
6:26pm. She was subsequently transferred to ___ for post-tPA 
monitoring. On initial exam she had aphasia, right facial 
weakness, dysarthria, and left gaze preference, though these 
improved following tPA. She was monitored without incident, with 
MRI after 24 hours showing a punctate infarct in the left 
frontal lobe. There was no evidence of hemorrhagic conversion or 
prior microhemorrages suggestive of cerebral amyloid angiopathy. 
TTE was negative for intracardiac thrombus or PFO. She had 
previously been anticoagulated for her a-fib, but this was 
stopped due to her fall risk. She has more recently been in a 
nursing home where she is wheelchair-bound -- mitigating that 
risk -- so in discussion with her daughter/HCP, it was decided 
to start her on anticoagulation with apixaban 2.5mg BID. Her LDL 
was mildly elevated at 82 (goal <70 for stroke), so she was 
started on atorvastatin 10mg. 

- STOP aspirin
- START apixaban (Eliquis) 2.5mg BID
- START atorvastatin 10mg daily
- Follow-up with stroke neurology (Dr. ___ in ___ months. 

===================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 82 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given: Atorvastatin 10mg was given as LDL was 
only 82 and low dose should be adequate to achieve target LDL. 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. NIFEdipine (Extended Release) 30 mg PO DAILY 
3. Sertraline 50 mg PO DAILY 
4. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
3.  Atenolol 25 mg PO DAILY  
4.  NIFEdipine (Extended Release) 30 mg PO DAILY  
5.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ischemic Stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,  

You were hospitalized due to symptoms of speech difficulty 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - Atrial fibrillation
 - Hypertension
 - Hyperlipidemia 

We are changing your medications as follows:  
 - START atorvastatin 10mg nightly
 - START apixaban (Eliquis) 2.5mg twice daily
 - STOP aspirin 

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___